US05641788
A mixture of 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methylquinoline (5.5 g), N-bromosuccinimide (2.42 g), 2,2'-azobis(isobutyronitrile)(0.815 g) and carbon tetrachloride (250 ml) was stirred under reflux for 1.5 hours. The reaction mixture was cooled, and then the insoluble material was filtered off. The filtrate was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (10:1, v/v) gave 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (2.73 g, 42%). This compound was recrystallized from ethyl acetate-hexane to give colorless prisms, mp. 182°-183° C.

reactant | 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-methylquinoline | 5.5 g | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)C | C27H25NO5
reactant | N-bromosuccinimide | 2.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis(isobutyronitrile) | 0.815 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 2.73 g, 42% | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C27H24BrNO5
